US03989719
The reaction of an alkanoyl halide and the hydrazide is illustrated by contacting 8-chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine-10-carboxylic acid hydrazide with octanoyl chloride in the presence of sodium bicarbonate to give 1-octanoyl-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine.

reactant | 8-chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine-10-carboxylic acid hydrazide | ClC1=CC2=C(OC3=C(CN2C(=O)NN)C=CC=C3)C=C1 | C14H12ClN3O2
reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-octanoyl-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine | C(CCCCCCC)(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C22H26ClN3O3
